US07968570B2
2-Bromomethyl-4-methoxybenzoic acid methyl ester
4-Fluoro-2-methyl-benzoic acid methyl ester (600 mg, 3.6 mmol), N-bromosuccinimide (635 mg, 3.6 mmol) and benzoyl peroxide (43 mg, 1.79 mmol) in CCl4 (15 mL) was stirred at 90° C. for 3 hours. The reaction was cooled to room temperature, filtered, washed with CCl4 and the solvent was removed under reduced pressure to provide a white solid. 1H NMR (300 MHz, CDCl3): δ 8.01 (d, 1H), 6.99 (d, 1H), 6.88 (dd, 1H), 4.98 (s, 2H), 3.93 (s, 3H), 3.89 (s, 3H).

reactant | 4-Fluoro-2-methyl-benzoic acid methyl ester | 3.6 mmol, 600 mg | COC(C1=C(C=C(C=C1)F)C)=O | C9H9FO2
reactant | N-bromosuccinimide | 3.6 mmol, 635 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.79 mmol, 43 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-methoxybenzoic acid methyl ester | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
